* c:\users\shanthipriya\desktop\madeeasy\fossee\esim\library\subcircuitlibrary\74ls90\74ls90.cir

* u2  /jk /jk /clk /r01 /r91 /qa ? d_jkff
* u4  net-_u3-pad3_ net-_u3-pad3_ /clk /r01 /r91 /qb ? d_jkff
* u8  net-_u5-pad3_ net-_u5-pad3_ /clk /r01 /r91 /qc ? d_jkff
* u11  net-_u10-pad3_ net-_u10-pad3_ /clk /r01 /r91 /qd net-_u11-pad7_ d_jkff
* u3  net-_u11-pad7_ /qa net-_u3-pad3_ d_and
* u5  /qa /qb net-_u5-pad3_ d_and
* u7  /qa /qd net-_u10-pad2_ d_and
* u6  /qa /qb net-_u6-pad3_ d_and
* u9  net-_u6-pad3_ /qc net-_u10-pad1_ d_and
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_or
* u1  /r91 /clk /r01 /jk ? ? ? ? /qa /qb /qc /qd port
a1 /jk /jk /clk /r01 /r91 /qa ? u2
a2 net-_u3-pad3_ net-_u3-pad3_ /clk /r01 /r91 /qb ? u4
a3 net-_u5-pad3_ net-_u5-pad3_ /clk /r01 /r91 /qc ? u8
a4 net-_u10-pad3_ net-_u10-pad3_ /clk /r01 /r91 /qd net-_u11-pad7_ u11
a5 [net-_u11-pad7_ /qa ] net-_u3-pad3_ u3
a6 [/qa /qb ] net-_u5-pad3_ u5
a7 [/qa /qd ] net-_u10-pad2_ u7
a8 [/qa /qb ] net-_u6-pad3_ u6
a9 [net-_u6-pad3_ /qc ] net-_u10-pad1_ u9
a10 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
* Schematic Name:                             d_jkff, NgSpice Name: d_jkff
.model u2 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_jkff, NgSpice Name: d_jkff
.model u4 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_jkff, NgSpice Name: d_jkff
.model u8 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_jkff, NgSpice Name: d_jkff
.model u11 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u10 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
